US08865736B2
3-(2-Benzyloxy-acetylamino)-4-chloro-benzoic acid methyl ester
A solution of carbonic acid monobenzyl ester (3.50 g, 21.0 mmol) in the 50 ml of DCM and 0.50 ml of DMF was cooled to −78° C. followed by addition of oxalyl chloride (11.79 ml, 105 mmol). The resulting reaction mixture was stirred at room temperature for 1 h. After the completion of the reaction mixture (TLC monitoring), concentrated it to give 2-benzyloxyacetyl chloride (3.0 g, 96%). To an ice cold solution of 3-amino-4-chloro-benzoic acid methyl ester in 10 ml of DCM was added triethylamine (2.47 ml, 17.78 mmol) followed by addition of 2-benzyloxyacetyl chloride (3.0 g, 17.78 mmol) in 10 ml of DCM. The reaction mixture was stirred at 25° C. for 12 hr. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure. The residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (5:95) as the eluent to provide the title compound (1.70 g, 31%).

reactant | 3-amino-4-chloro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)Cl)N)=O | C8H8ClNO2
reactant | triethylamine | 17.78 mmol, 2.47 ml | C(C)N(CC)CC | C6H15N
reactant | 2-benzyloxyacetyl chloride | 17.78 mmol, 3.0 g | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Benzyloxy-acetylamino)-4-chloro-benzoic acid methyl ester | 1.70 g, 31% | COC(C1=CC(=C(C=C1)Cl)NC(COCC1=CC=CC=C1)=O)=O | C17H16ClNO4
